### PR TITLE
[Merged by Bors] - feat(Asymptotics): Show that `f =O[atTop] g` from a recurrence relation

### PR DESCRIPTION
**Pull request by dupuisf**
This PR introduces two lemmas that are useful to show that `f =O[atTop] g` recursively using a recurrence relation, i.e. by proving that `f n ≤ C * g n` assuming that we know this for smaller values of `n`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Asymptotics/Lemmas.lean [hunk 1]
```diff
@@ -675,6 +675,52 @@ lemma isLittleO_mul_iff_isLittleO_div {f g h : α → 𝕜} (hf : ∀ᶠ x in l,
   rw [isLittleO_iff_forall_isBigOWith, isLittleO_iff_forall_isBigOWith]
   simp [isBigOWith_mul_iff_isBigOWith_div hf]
 
+lemma isBigO_nat_atTop_of_recurrence {f : ℕ → E''} {g : ℕ → F''}
+    (h : ∀ᶠ n in atTop, g n = 0 → f n = 0)
+    (hrec : ∀ᶠ n₀ in atTop, ∃ C₀, ∀ᶠ n in atTop, ∀ C ≥ C₀,
+      (∀ m ∈ Finset.Ico n₀ n, ‖f m‖ ≤ C * ‖g m‖) → ‖f n‖ ≤ C * ‖g n‖) :
+    f =O[atTop] g := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Asymptotics/Lemmas.lean]: I found this name rather confusing, as there is no really a "recurrence relation" in sight, even though you could *use* this for recursively defined functions. I'd be more tempted to call this `isBigO_nat_atTop_induction` or something.

File: Mathlib/Analysis/Asymptotics/Lemmas.lean [hunk 2]
```diff
@@ -675,6 +675,52 @@ lemma isLittleO_mul_iff_isLittleO_div {f g h : α → 𝕜} (hf : ∀ᶠ x in l,
...
+  obtain ⟨n₁, H₁, H₂⟩ := (eventually_ge_atTop n₀).and hrec |>.exists
+  let ubounds := {C | ∀ m ∈ Finset.Icc n₀ n₁, ‖f m‖ ≤ C * ‖g m‖}
+  let C₁ := (Finset.Icc n₀ n₁).sup' (Finset.nonempty_Icc.mpr H₁) fun n => ‖f n‖ / ‖g n‖
+  have C₁_mem : C₁ ∈ ubounds := by
+    rw [Set.mem_setOf]
+    intro m hm
+    calc ‖f m‖ = (‖f m‖ / ‖g m‖) * ‖g m‖ := by by_cases hm' : g m = 0 <;> grind [norm_eq_zero]
+      _ ≤ C₁ * ‖g m‖ := by
+            gcongr
+            exact Finset.le_sup' (fun x => ‖f x‖ / ‖g x‖) (Finset.mem_def.mpr hm)
```
Comment (j-loreaux) [inline Mathlib/Analysis/Asymptotics/Lemmas.lean]:
```suggestion
      _ ≤ C₁ * ‖g m‖ := by
        gcongr
        exact Finset.le_sup' (fun x => ‖f x‖ / ‖g x‖) (Finset.mem_def.mpr hm)
```

File: Mathlib/Analysis/Asymptotics/Lemmas.lean [hunk 3]
```diff
@@ -675,6 +675,52 @@ lemma isLittleO_mul_iff_isLittleO_div {f g h : α → 𝕜} (hf : ∀ᶠ x in l,
...
+  induction n using Nat.strongRecOn with
+  | ind n h_ind =>
+    refine H₂ _ (by grind) _ (by grind) fun m hm => ?_
+    by_cases hbase : m < n₁
+    · have hC₁ : C₁ ≤ max C₀ C₁ := by grind
+      grw [← hC₁]
+      grind
+    · grind
+
+lemma isBigO_nat_atTop_of_recurrence_of_eventually_pos {f g : ℕ → ℝ}
```
Comment (j-loreaux) [inline Mathlib/Analysis/Asymptotics/Lemmas.lean]:
```suggestion
lemma isBigO_nat_atTop_of_induction_of_eventually_pos {f g : ℕ → ℝ}
```

**Comment by dupuisf** [comment]
> What do you think about the following?
> 
> ```lean
> lemma isBigO_nat_atTop_of_recurrence {f : ℕ → E'} {g : ℕ → F'}
>     (hrec : ∀ᶠ (nC : ℕ × ℝ) in atTop ×ˢ atTop,
>       (∀ m < nC.1, (‖g m‖ = 0 → ‖f m‖ = 0) → ‖f m‖ ≤ nC.2 * ‖g m‖) → ‖f nC.1‖ ≤ nC.2 * ‖g nC.1‖) :
>     f =O[atTop] g := by
>   rw [atTop_basis.prod atTop_basis |>.eventually_iff] at hrec
>   rcases hrec with ⟨⟨n₀, C₀⟩, -, hrec⟩
>   simp only [Ici_prod_Ici, mem_Ici, Prod.forall, Prod.mk_le_mk, and_imp] at hrec
>   set C₁ := (Finset.Icc 0 n₀).sup' (Finset.nonempty_Icc.mpr <| zero_le _) (fun n ↦ ‖f n‖ / ‖g n‖)
>   set C := max C₀ C₁
>   have : ∀ n < n₀, (‖g n‖ = 0 → ‖f n‖ = 0) → ‖f n‖ ≤ C * ‖g n‖ := by
>     intro n hn
>     by_cases hgn : ‖g n‖ = 0
>     · simpa [hgn] using Eq.le
>     · rw [← div_le_iff₀ (by positivity)]
>       exact fun _ ↦ le_max_of_le_right <|
>         Finset.le_sup' (fun n ↦ ‖f n‖ / ‖g n‖) (Finset.mem_Icc.mpr ⟨zero_le n, hn.le⟩)
>   refine .of_bound C ?_
>   filter_upwards [eventually_ge_atTop n₀] with n
>   induction n using Nat.strongRecOn with
>   | ind n h_ind =>
>     intro n₀_le_n
>     apply hrec n C n₀_le_n (le_max_left _ _) (fun k hk ↦ ?_)
>     rcases lt_or_ge k n₀ with (k_lt_n₀ | n₀_le_k)
>     · exact this k k_lt_n₀
>     · exact fun _ ↦ h_ind k hk n₀_le_k
> ```
> 
> The statement and the proof both seem a bit more natural to me, but maybe that's not the case in your application. Notice that your hypotheses imply mine, but not super trivially:
> 
> ```lean
> example {f : ℕ → E''} {g : ℕ → F''}
>     (h : ∀ᶠ n in atTop, g n = 0 → f n = 0)
>     (hrec : ∀ᶠ n₀ in atTop, ∃ C₀, ∀ᶠ n in atTop, ∀ C ≥ C₀,
>       (∀ m ∈ Finset.Ico n₀ n, ‖f m‖ ≤ C * ‖g m‖) → ‖f n‖ ≤ C * ‖g n‖) :
>     ∀ᶠ (nC : ℕ × ℝ) in atTop ×ˢ atTop,
>       (∀ m < nC.1, (‖g m‖ = 0 → ‖f m‖ = 0) → ‖f m‖ ≤ nC.2 * ‖g m‖) →
>         ‖f nC.1‖ ≤ nC.2 * ‖g nC.1‖ := by
>   replace h : ∀ᶠ n in atTop, ‖g n‖ = 0 → ‖f n‖ = 0 := by
>     simpa only [norm_eq_zero]
>   rw [← eventually_forall_ge_atTop] at h
>   obtain ⟨n₀, h, ⟨C₀, hrec⟩⟩ := h.and hrec |>.exists
>   filter_upwards [hrec.and (eventually_ge_atTop n₀) |>.prod_mk <|
>     (eventually_ge_atTop C₀).and (eventually_ge_atTop 0)]
>   rintro ⟨n, C⟩ ⟨⟨hrec, hn⟩, ⟨hC, C_nonneg⟩⟩ H
>   apply hrec C hC fun k hk ↦ ?_
>   rw [Finset.mem_Ico] at hk
>   exact H k hk.2 (h k hk.1)
> ```

I think this would be more awkward in applications: usually one has a list of hypotheses of the form `∀ᶠ n in atTop, p n`, and this doesn't particularly play well with the product filter.

File: Mathlib/Analysis/Asymptotics/Lemmas.lean (hunk 1 above)
Comment (dupuisf) [reply Mathlib/Analysis/Asymptotics/Lemmas.lean]: Yes, fair enough.
